US07288567B2
Step 1: Methyl 5-aminovalerate (41)
To a solution of 5-aminovaleric acid (5 g, 42.68 mmol) in MeOH (100 mL) at room temperature was added HCl conc. (37%, 16 mL). The solution was stirred for 48 h at room temperature and monitored by HPLC-MS. The resulting solution was treated with a saturated aqueous solution of NaHCO3 then the solvents were evaporated under reduced pressure. The aqueous layer was washed several times with CH2Cl2 and AcOEt. The aqueous phase was concentrated to produce a solid containing the desired product, NaCl, and NaHCO3. The solid was washed with MeOH, and the organic filtrate was concentrated to afford the title compound (36) as a white solid (7.88 g, 100%): 1H NMR: (300 MHz, CD3OD) δ 3.34 (s, 3H), 2.61 (br. s, 2H), 2.10-2.06 (m, 2H), 1.39-1.34 (m, 4H); MS (ES) m/z 132.2 (M+).

reactant | 5-aminovaleric acid | 42.68 mmol, 5 g | NCCCCC(=O)O | C5H11NO2
reactant | HCl | 16 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | MeOH | 100 mL | CO | CH4O
product | Methyl 5-aminovalerate | NCCCCC(=O)OC | C6H13NO2
